data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,4315,"CC(=O)O.CC(=O)O[I+:1]1([O:2][C:3]2([H:4])CCC3(C)C(CCC4CC5CC43CCC5O)C2(C)C)OC(=O)C2=C1C=CC=C2.CC(=O)[O-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7732,"CO[C:1](OC)([NH2:2])[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2036,"COC(=O)CC1CCC[C:1](C(=O)OC)=[C:2]1[O-:3].CO[C:4](=[O:5])[CH:6]=[CH:7][CH:8]=[CH2:9]|(3, 2);((2, 1), 9);((9, 8), 7);((7, 6), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7201,"C[C:1]1=[C:2]([O-:3])CCC1=O.C[CH:4]=[O:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7354,"CCCCCC1=CC=C([CH:1]([C:2](C)([C:3]2=CC=CC(CC(C)C)=C2)[OH:4])[OH2+:5])C=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,4322,"CCNC[CH:1]=[CH:2][O-:3].[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9496,"CC(=O)OC(C)=O.CC[N:1](CC)CC.COC1=C(O)C=C(C=O)C=C1.COC1=CC(CC(=O)[O:2][H:3])=CC(OC)=C1OC|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,931,"[H:1][OH:2].[Li][O:3]C1C2C3CCC(C3)C1(Cl)C1C=CCC21|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1099,"OCC[OH+:1][C:2]1([OH:3])CCC(C(O)(C2=CC=CC=C2)C2=CC=CC=C2)CC1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4264,"CC(NC(=O)CNC(=O)C(CC1=CC=CC=C1)N[C:1](=[OH+:2])[O:3][C:4](C)(C)C)C(=O)O.O=C([O-])C(F)(F)F.[Cl-]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8266,"CO[PH](OC)(N(C)C)[O:1]C.C[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5114,"N[C:1](OCC[O-:2])=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4268,"CCOC(O)(C(O)C1=CC=CC=C1)[OH:1].CC[OH+:2][H:3].O=S(=O)([O-])O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1681,"O=S(=O)(O)[O-:1].O=[N+]([O-])C1=CC=CC2=C1C=C[CH+:2][C:3]2([N+](=O)[O-])[H:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,2230,"CC[N:1](C)[AlH3-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7797,"CSC(O)C(OCC1=CC=CC=C1)C1OC(C)(C)OC1C(OCC1=CC=CC=C1)[CH:1]([O:2]C(=O)C(F)(F)F)[S:3]C.O.O=C(O)C(F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9831,"C1=CC=C([CH:1]([CH2:2][H:3])[Br:4])C=C1.[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,7506,"C[S+](C)[CH2-:1].[CH2:2]=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9345,"C1CO[C:1](=[OH+:2])O1.[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8327,"CC(=O)C1=C2C=C[CH:1]=[CH:2]C2=CC=C1.C[C+:3]=O|((1, 2), 3)"
train,pmechdb_split_0,0,130,"CC(C)[O-].CC(C)[O][Al-]([O]C(C)C)([O:1][C:2]1([H:3])CCC(C2=CC=CC=C2)CC1C)[O+:4]=[C:5](C)C|(1, 2);((2, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,9377,"C[S+](C)(=O)[CH2:1][CH2:2][CH:3]=[CH:4][O-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,576,"C1=CC=C2C(=C1)C1=C(C=CC=C1)[C-:1]2CN1CCCCC1.O=C(CNC(=O)[O:2][H:3])NC1=CC=C(Cl)C=C1I|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4007,"O=S(Cl)[O:1][CH2:2]CCl.[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7389,"C1=CC=CC=C1.C1CCC(N2CCOCC2)([O-:1])CC1.C1C[NH+:2]([H:3])CCO1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6720,"C=CC(=O)[O:1][C:2](C)(OCC)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9684,"CC(=[O+][Li:1])C1=CC=CC=C1.CNOC.[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,5459,"C[P+:1](C)(C)Cl.[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,9704,"C[C:1](Br)=[CH2:2].[H:3][OH2+:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,10319,"C1=NN=N[N-]1.CC1=CN(C2CC(O[PH+:1](OCCC#N)N(C(C)C)C(C)C)C(COC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)O2)C(=O)NC1=O.CC1=CN(C2CC([OH:2])C(C)O2)C(=O)NC1=O|(2, 1)"
train,pmechdb_split_0,0,4523,"C1=C[CH:1]=[N:2]C=C1.[NH2-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,362,"CC(C)(C)[O-:1].COC1=C2OC3C45CCN(CCC6=CC=CC=C6)C(CC(=C24)C=C1)C5[CH:2]([H:3])[CH:4]([Br:5])C3(OC)OC.CS(C)=O.[K+]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7377,"ClC1=N[C:1](Cl)=[N:2]C(Cl)=N1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5214,"CC[O:1][Na].ClCCCBr.N#CC1=CC=CC([O:2][H:3])=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6201,"C=CC[Si](C)(C)C.CCOC(=O)[N:1]1CC[CH:2]([OH+:3][Sn-]([Cl])([Cl])([Cl])[Cl])[CH:4]=[CH:5]1|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,3576,"CC[C:1]([N+]1=CN(C)C=C1)=[O:2].CC[NH2:3].O=[N+]([O-])C1=CC=C([O-])C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5166,"COC1=C(O)C=CC(CC2C(C(O)C3=CC(OC)=C(O)C=C3)CO[C:1]2=[O:2])=C1.[Na][OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5064,"CC(O)[C:1]1([H:2])CCC[C:3]1=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8212,"CC1CCC(C)[CH:1]=[C:2]1C1=CC=CC=C1.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,369,"CC=CC1CCC[CH:1]([H:2])[CH:3]1[Br:4].[NH2-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2341,"C=CCOC(=O)CC1=CC=C(C2=CC=C(OCC3=CC=C(C(F)(F)F)C(OCC=C)=C3C(=O)[O:1][H:2])C=C2)C=C1.CCOC(=O)NN(C(OCC)=[O:3])P(OC(C)C)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,796,"C1CC[CH:1]([I:2])C([I:3])C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6804,"CC(=O)OC=C1C=CC=C1.CC[N:1](CC)CC.C[C:2](Cl)([H:3])[C:4](Cl)=[O:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
